US07851473B2
(2) 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-{4-[(trifluoroacetyl)amino]phenyl}piperazine-1-carboxamide
A solution of 2,2,2-trichloroethyl {4-[(trifluoroacetyl)amino]phenyl}carbamate (200 mg, 0.527 mmol), 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine (130 mg, 0.527 mmol), diisopropylethylamine (0.184 ml, 1.05 mmol) and dimethyl sulfoxide (4 ml) was stirred at 70° C. for 12-hours, the reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The extract was washed with water, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the desired product as a solid. The solid was recrystallized from a mixed solvent of ethyl acetate and hexane to give 43.0 mg (17.1%) of the desired product as a solid.

reactant | 2,2,2-trichloroethyl {4-[(trifluoroacetyl)amino]phenyl}carbamate | 0.527 mmol, 200 mg | FC(C(=O)NC1=CC=C(C=C1)NC(OCC(Cl)(Cl)Cl)=O)(F)F | C11H8Cl3F3N2O3
reactant | 1-(3-phenyl-1,2,4-thiadiazol-5-yl)piperazine | 0.527 mmol, 130 mg | C1(=CC=CC=C1)C1=NSC(=N1)N1CCNCC1 | C12H14N4S
reactant | diisopropylethylamine | 1.05 mmol, 0.184 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-Phenyl-1,2,4-thiadiazol-5-yl)-N-{4-[(trifluoroacetyl)amino]phenyl}piperazine-1-carboxamide | C1(=CC=CC=C1)C1=NSC(=N1)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)NC(C(F)(F)F)=O | C21H19F3N6O2S
